US04409228
A mixture of 19 g of 2-chloro-6-(2,2,2-trifluoroethoxy)pyridine (b.p. 80° C./16 mm Hg, prepared by reaction of 2,6-dichloropyridine with 2,2,2-trifluoroethanolate of sodium), 14.87 g of 4-formamidopiperidine (m.p. 116° to 118° C., prepared by hydrogenation of 4-formamido-1-benzylpiperidine in the presence of palladium on charcoal), 17.27 g of anhydrous potassium carbonate, 5.67 g of copper in powder form in 110 ml of sulfolane is heated to 100° C. with stirring for 50 hours, then the sulfolane is distilled, the residue is taken up with water and the suspension thus obtained is extracted with methylene chloride. The organic phase is washed with water, it is dried over anhydrous sodium sulfate and evaporated to dryness. The residue, firstly crystallised in an 84/16 by volume mixture of water/ethanol and afterwards in diisopropylic ether, gives 9 g of 4-acetamido-1-[6-(2,2,2-trifluoro)ethoxy-2-pyridyl] piperidine; m.p. 92° to 95° C.

reactant | 2-chloro-6-(2,2,2-trifluoroethoxy)pyridine | 19 g | ClC1=NC(=CC=C1)OCC(F)(F)F | C7H5ClF3NO
reactant | 4-formamidopiperidine | 14.87 g | C(=O)NC1CCNCC1 | C6H12N2O
reactant | 4-formamido-1-benzylpiperidine | C(=O)NC1CCN(CC1)CC1=CC=CC=C1 | C13H18N2O
reactant | potassium carbonate | 17.27 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium on charcoal | [Pd] | Pd
solvent | sulfolane | 110 ml | S1(=O)(=O)CCCC1 | C4H8O2S
catalyst | copper | 5.67 g | [Cu] | Cu
product | 4-acetamido-1-[6-(2,2,2-trifluoro)ethoxy-2-pyridyl] piperidine | 9 g | C(C)(=O)NC1CCN(CC1)C1=NC(=CC=C1)OCC(F)(F)F | C14H18F3N3O2
